US07115607B2
Fluoren-9-ylmethyl (3R)-3-(N-{(1R)-2-[4-(2-aminophenyl)piperazinyl]-1-[(4-chlorophenyl)methyl]-2-oxoethyl}carbamoyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate
Fluoren-9-ylmethyl (3R)-3-(N-{(1R)-2-[4-(2-aminophenyl)piperazinyl]-1-[(4-chlorophenyl)methyl]-2-oxoethyl}carbamoyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate was prepared according to the procedure for Preparation II using fluoren-9-ylmethyl (3R)-3-(N-{(1R)-1-[(4-chlorophenyl)methyl]-2-[4-(2-nitrophenyl)-piperazinyl]-2-oxoethyl}carbamoyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (1.4 g, 1.8 mmol) and SnCl2.2H2O (1.7 g, 7.3 mmol) (Aldrich). The crude product was purified by flash chromatography (SiO2, 1:1 EtOAc:hexane) and concentrated in vacuo to afford the desired compound (770 mg). MS (ESI, pos. ion) m/z: 740 (M+H), (ESI, neg. ion) m/z: 738 (M−H). Calc'd for C44H42ClN5O4: 739.29.

reactant | fluoren-9-ylmethyl (3R)-3-(N-{(1R)-1-[(4-chlorophenyl)methyl]-2-[4-(2-nitrophenyl)-piperazinyl]-2-oxoethyl}carbamoyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 1.8 mmol, 1.4 g | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-])NC(=O)[C@@H]1N(CC2=CC=CC=C2C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C44H40ClN5O6
reactant | SnCl2.2H2O | 7.3 mmol, 1.7 g | O.O.Cl[Sn]Cl
product | Fluoren-9-ylmethyl (3R)-3-(N-{(1R)-2-[4-(2-aminophenyl)piperazinyl]-1-[(4-chlorophenyl)methyl]-2-oxoethyl}carbamoyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 770 mg | NC1=C(C=CC=C1)N1CCN(CC1)C([C@@H](CC1=CC=C(C=C1)Cl)NC(=O)[C@@H]1N(CC2=CC=CC=C2C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C44H42ClN5O4
